US04542132
Methyl chloroformate (3.3 cm3) was added at room temperature to a stirred solution of 2-[2-(1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide (4.5 g) in toluene (20 cm3) and the mixture was heated under reflux for 16 hours. Volatile material was removed in vacuo to give the crude 2-[2-(1-methoxycarbonyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide as an oil (5.0 g).

reactant | Methyl chloroformate | 3.3 cm3 | ClC(=O)OC | C2H3ClO2
reactant | 2-[2-(1-benzyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide | 4.5 g | C(C1=CC=CC=C1)N1CCC(=CC1)CCN1S(CCC1)(=O)=O | C17H24N2O2S
solvent | toluene | 20 cm3 | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(1-methoxycarbonyl-1,2,3,6-tetrahydropyrid-4-yl)ethyl]isothiazolidine-1,1-dioxide | 5.0 g | COC(=O)N1CCC(=CC1)CCN1S(CCC1)(=O)=O | C12H20N2O4S
